US20010047105A1
Step C: 5-[4-(4-Fluoro-phenyl)-3-hydroxy-butyl]-1-[6-(2H-tetrazol-5-yl)-hexyl]-pyrrolidin-2-one.
Following the procedure described for Example 3, Step D, 7-{2-[4-(4-fluoro-phenyl)-3-hydroxy-butyl]-5-oxo-pyrrolidin-1-yl}-heptanenitrile (71 mg, 0.197 mmol) was reacted with azidotrimethylsilane (45 mg, 0.394 mmol) and dibutyltin oxide (5 mg, 0.02 mmol) in toluene (10 mL) heated under reflux for 16 h. Additional azidotrimethylsilane (200 mg) and dibutyltin oxide (50 mg) were added and the reaction mixture was heated under reflux for 5 h. The reaction mixture was acidified with 1N HCl to pH=2 (5 mL) and the aqueous solution was washed with EtOAc (4×10 mL). The combined organic solutions were dried (MgSO4), filtered, and concentrated. Purification by medium pressure chromatography (EtOAc to 39:1 EtOAc:MeOH to 19:1 EtOAc:MeOH) provided the title compound of Example 5A (39 mg). 1H NMR (CDCl3) δ7.16 (m, 2H), 7.00 (m, 2H), 3.81 (m, 1H), 3.68 (m, 1H), 3.53 (m, 1H), 2.99 (m, 3H), 2.80 (m, 1H), 2.68 (m, 1H), 2.47 (m, 2H), 2.20 (m, 1H), 1.88-1.22 (m, 14H); MS 404.3 (M+1); 402.3 (M−1).

reactant | 7-{2-[4-(4-fluoro-phenyl)-3-hydroxy-butyl]-5-oxo-pyrrolidin-1-yl}-heptanenitrile | 0.197 mmol, 71 mg | FC1=CC=C(C=C1)CC(CCC1N(C(CC1)=O)CCCCCCC#N)O | C21H29FN2O2
reactant | azidotrimethylsilane | 0.394 mmol, 45 mg | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | dibutyltin oxide | 0.02 mmol, 5 mg | C(CCC)[Sn](CCCC)=O
reactant | azidotrimethylsilane | 200 mg | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | dibutyltin oxide | 50 mg | C(CCC)[Sn](CCCC)=O
reactant | HCl | 1N | Cl | ClH
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[4-(4-Fluoro-phenyl)-3-hydroxy-butyl]-1-[6-(2H-tetrazol-5-yl)-hexyl]-pyrrolidin-2-one | 39 mg | FC1=CC=C(C=C1)CC(CCC1CCC(N1CCCCCCC=1N=NNN1)=O)O | C21H30FN5O2
